US07932277B2
Step 4: Synthesis of 6-(3-chlorophenoxy)-N-((1R,2S)-1-(cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropyl)-2-((S)-2-(4-fluorophenylamino)-3,3-dimethylbutanoyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxamide
The crude (1R,2S)-1-(6-(3-chlorophenoxy)-2-((S)-2-(4-fluorophenylamino)-3,3-dimethylbutanoyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxamido)-2-vinylcyclopropanecarboxylic acid (112 mg, 0.180 mmol) was dissolved in 1.0 mL of 1,2-dichloroethane (DCE) and 1,1′-carbonyldiimidazole (CDI, 88 mg, 0.54 mmol) was added. The reaction was heated to 40° C. for 4 h. TLC run in 10% MeOH/CHCl3 showed conversion to a higher Rf spot. Cyclopropyl sulfonamide (65 mg, 0.54 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 81 μL, 0.54 mmol) were added and the reaction heated to 50° C. and stirred overnight. The reaction was concentrated to 400 μL volume and loaded on a Biotage size 12, C-18 samplet for purification using the Horizon LC (12 m, C-18 column) eluting with a gradient from 0% acetonitrile/water to 100% acetonitrile/water over 40-6 mL fractions. Upon concentration product is a white solid. Compound 10 (26 mg, 20%) 1H NMR (CDCl3, 500 MHz): δ 9.72 (br s, 1H), 7.32-7.22 (m, 1H), 7.20-7.07 (m, 2H), 7.02-6.68 (m, 7H), 6.58 (br s, 1H), 5.85-5.49 (m, 2H), 5.31-5.03 (m, 2H), 4.83-4.67 (m, 2H), 4.54-4.42 (m, 1H), 4.32 (br s, 1H), 4.18 (br s, 1H), 3.24-2.76 (m, 3H), 1.94 (br s, 1H), 1.86-1.18 (m, 5H), 1.17-0.95 (m, 10H); MS m/e 722 (M−−H).

reactant | (1R,2S)-1-(6-(3-chlorophenoxy)-2-((S)-2-(4-fluorophenylamino)-3,3-dimethylbutanoyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxamido)-2-vinylcyclopropanecarboxylic acid | 0.180 mmol, 112 mg | ClC=1C=C(OC=2C=C3CC(N(CC3=CC2)C([C@H](C(C)(C)C)NC2=CC=C(C=C2)F)=O)C(=O)N[C@]2([C@@H](C2)C=C)C(=O)O)C=CC1 | C34H35ClFN3O5
reactant | 1,1′-carbonyldiimidazole | 0.54 mmol, 88 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Cyclopropyl sulfonamide | 0.54 mmol, 65 mg | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.54 mmol, 81 μL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | 1,2-dichloroethane | 1.0 mL | ClCCCl | C2H4Cl2
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | 6-(3-chlorophenoxy)-N-((1R,2S)-1-(cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropyl)-2-((S)-2-(4-fluorophenylamino)-3,3-dimethylbutanoyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxamide | ClC=1C=C(OC=2C=C3CC(N(CC3=CC2)C([C@H](C(C)(C)C)NC2=CC=C(C=C2)F)=O)C(=O)N[C@]2([C@@H](C2)C=C)C(NS(=O)(=O)C2CC2)=O)C=CC1 | C37H40ClFN4O6S
